US04129586
Preparation of 2-(4-t-butylazo-4-cyanovaleryloxy)-2'-hydroxybenzophenone
To a solution of 4.68 g. (0.0218 m) of 2,2'-dihydroxybenzophenone and 2.5 ml. of pyridine in 30 ml. of ether in a 4 neck 100 ml. round bottom flask equipped with a thermometer, condenser and magnetic stirring bar was added 5.0 g. (0.0218 m) of 4-t-butylazo-4-cyanovaleryl chloride dropwise with cooling so the temperature did not rise above 25° C. After completion of the addition the reaction mixture was stirred 1/2 hour at room temperature and then diluted with 100 ml. of water. The ether layer was separated, washed consecutively with 5% HCl, water, 10% NaHCO3 solution and saturated sodium chloride solution. The ether was evaporated off leaving a yellow solid. The solid was slurried in pentane, filtered and air dried. The product weighed 6.3 g. (71.2% yield) and decomposed slowly on heating above 80° C. The infrared spectrum of the product was in agreement with the structure of the desired product.

reactant | 2,2'-dihydroxybenzophenone | OC1=C(C(=O)C2=C(C=CC=C2)O)C=CC=C1 | C13H10O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | ether | CCOCC | C4H10O
reactant | 4-t-butylazo-4-cyanovaleryl chloride | C(C)(C)(C)N=NC(CCC(=O)Cl)(C)C#N | C10H16ClN3O
solvent | pentane | CCCCC | C5H12
solvent | water | O | H2O
product | 2-(4-t-butylazo-4-cyanovaleryloxy)-2'-hydroxybenzophenone | 71.2% yield | C(C)(C)(C)N=NC(CCC(=O)OC1=C(C(=O)C2=C(C=CC=C2)O)C=CC=C1)(C)C#N | C23H25N3O4
